US04435390
As described in Example 5(c), 600 mg of 11β,21-dihydroxy-17methoxyacetoxy-6α-methyl-4-pregnene-3,20-dione is reacted with acetic anhydride, worked up, and chromatographed, thus isolating 480 mg of 21-acetoxy-11β-hydroxy-17-methoxyacetoxy-6α-methyl-4pregnene-3,20-dione.

reactant | 11β,21-dihydroxy-17methoxyacetoxy-6α-methyl-4-pregnene-3,20-dione | 600 mg | O[C@@H]1[C@@H]2[C@]3(CCC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(COC)=O)C)=O)C | C25H36O7
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 21-acetoxy-11β-hydroxy-17-methoxyacetoxy-6α-methyl-4pregnene-3,20-dione | 480 mg | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)OC(COC)=O)=O | C27H38O8
